US04894369
Acetyl chloride (10.0 ml) was added to a stirred suspension of (2β,3α,5α,16β,17β)-2-(4-morpholinyl)-16-(1pyrrolidinyl)-androstane-3,17-diol (10.0 g) in dichloromethane (100 ml). After 24 h. at room temperature, saturated potassium bicarbonate solution (approx. 20 ml) was added to give pH>7; the dichloromethane layer was separated, washed with water (3×150 ml), dried (Na2SO4) and evaporated to dryness to afford (2β,3α,5α,16β,17β)-2-(4-morpholinyl)-16-(1pyrrolidinyl)-androstane-3,17-diol diacetate as an off-white froth (7.78 g), [α]D20 =+11.4° (c 0.57 in CHCl3)

reactant | Acetyl chloride | 10.0 ml | C(C)(=O)Cl | C2H3ClO
reactant | (2β,3α,5α,16β,17β)-2-(4-morpholinyl)-16-(1pyrrolidinyl)-androstane-3,17-diol | 10.0 g | N1(CCOCC1)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)N1CCCC1)O | C27H46N2O3
reactant | potassium bicarbonate | approx. 20 ml | C([O-])(O)=O.[K+]
reactant | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (2β,3α,5α,16β,17β)-2-(4-morpholinyl)-16-(1pyrrolidinyl)-androstane-3,17-diol diacetate | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C[C@@H]1N1CCOCC1)C)OC(C)=O)N1CCCC1 | C31H50N2O5
